US05028610
2 g of anhydrous potassium carbonate were added to a mixture of 192.6 mg of 1-(4-chlorobenzhydryl)piperazine and 142.7 mg of N-(2,4,6-trimethylphenyl)chloroacetamide dissolved in 20 ml of N,N-dimethylformamide, and the reaction mixture was stirred at 80° C. for 7.5 hours. At the end of this time, ethyl acetate was added to the mixture, and the organic layer was separated. The organic layer was washed three times with water, and then the solvent was evaporated off under reduced pressure. The residue was subjected to silica gel thin layer chromatography using a 1:1 by volume mixture of cyclohexane and ethyl acetate as the developing solvent, to afford a purified 1-(4-chlorobenzhydryl)-4-(2,4,6-trimethylphenylcarbamoylmethyl)piperazine.

reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-chlorobenzhydryl)piperazine | 192.6 mg | ClC1=CC=C(C(C2=CC=CC=C2)N2CCNCC2)C=C1 | C17H19ClN2
reactant | N-(2,4,6-trimethylphenyl)chloroacetamide | 142.7 mg | CC1=C(C(=CC(=C1)C)C)NC(CCl)=O | C11H14ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(4-chlorobenzhydryl)-4-(2,4,6-trimethylphenylcarbamoylmethyl)piperazine | ClC1=CC=C(C(C2=CC=CC=C2)N2CCN(CC2)CC(NC2=C(C=C(C=C2C)C)C)=O)C=C1 | C28H32ClN3O
